US04349552
Hydrogen chloride gas was introduced to the solution of 1-[N-[3-(t-butoxycarbonylamino)propyl]carbamoyl]-5-fluorouracil (5.1 g.) which was prepared in Example 20 in ethanol (30 ml.) until precipitates were appeared for 1 hour with stirring under cooling with ice. The reaction mixture was further stirred for 1 hour at ambient temperature, and diethyl ether (100 ml.) was added therein. The resultant crystalline precipitates were collected by filtration and were dried over phosphoric anhydride to give 1-[N-(3-aminopropyl)carbamoyl]-5-fluorouracil hydrochloride (1.5 g.).

reactant | Hydrogen chloride | Cl | ClH
reactant | 1-[N-[3-(t-butoxycarbonylamino)propyl]carbamoyl]-5-fluorouracil | 5.1 g | C(C)(C)(C)OC(=O)NCCCNC(=O)N1C(=O)NC(=O)C(=C1)F | C13H19FN4O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-[N-(3-aminopropyl)carbamoyl]-5-fluorouracil hydrochloride | 1.5 g | Cl.NCCCNC(=O)N1C(=O)NC(=O)C(=C1)F | InChI=1S/C8H11FN4O3.ClH/c9-5-4-13(8(16)12-6(5)14)7(15)11-3-1-2-10;/h4H,1-3,10H2,(H,11,15)(H,12,14,16);1H
